US08431578B2
Step A: 3-Bromo-5-trimethylsilanylethynyl-pyridine
To a solution of 3,5-dibromopyridine (1.0 eq, 5.0 g, 20.9 mmol) in TEA (100 ml) under an inert atmosphere of nitrogen is added copper(I) iodide (0.1 eq, 406 mg, 2.09 mmol) and PdCl2(PPh3)2 (0.1 eq, 1.5 g, 2.09 mmol). Trimethylsilylacetylene (1.2 eq, 3.6 ml, 25 mmol) is added and the resulting mixture is stirred at room temperature for 2 h. The solvent is removed in vacuo and the residue is partitioned between water and DCM. The organic portion is separated and washed with sat. aqueous NaHCO3 solution, dried (MgSO4) and concentrated in vacuo. Purification by column chromatography (hexane/DCM) yields the title compound; [M+H]+=254/256.

reactant | 3,5-dibromopyridine | 20.9 mmol, 5.0 g, 1.0 eq | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | Trimethylsilylacetylene | 25 mmol, 3.6 ml, 1.2 eq | C[Si](C)(C)C#C | C5H10Si
catalyst | copper(I) iodide | 2.09 mmol, 406 mg, 0.1 eq | [Cu]I
catalyst | PdCl2(PPh3)2 | 2.09 mmol, 1.5 g, 0.1 eq | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Bromo-5-trimethylsilanylethynyl-pyridine | BrC=1C=NC=C(C1)C#C[Si](C)(C)C | C10H12BrNSi
